US07378409B2
Preparation C13, Step 1: Diethyl oxalate (3.81 mL, 28 mmol, 1 eq.) was dissolved in THF (25 mL) at RT under nitrogen then taken to near-reflux. Sodium hydride (1.18 g, 29 mmol, 1.05 eq.) was added in 5 portions carefully. A solution of 1-adamantyl methyl ketone (5.00 g, 28 mmol, 1 eq.), in THF (10 mL) was added dropwise via an addition funnel. After the addition was complete, the mixture was refluxed for 1 hour. Cooled to RT and very carefully quenched with saturated NH4Cl (50 mL) then extracted 3 times with methylene chloride. The organic layers were combined, dried and stripped in vacuo to give 7.80 g of 4-adamantan-1-yl-2,4-dioxo-butyric acid ethyl ester as an amber oil. MS found: (M+H)+=279.

reactant | Diethyl oxalate | 28 mmol, 3.81 mL, 1 eq. | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | Sodium hydride | 29 mmol, 1.18 g, 1.05 eq. | [H-].[Na+]
reactant | 1-adamantyl methyl ketone | 28 mmol, 5.00 g, 1 eq. | CC(=O)C12CC3CC(CC(C1)C3)C2 | C12H18O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-adamantan-1-yl-2,4-dioxo-butyric acid ethyl ester | 7.80 g | C(C)OC(C(CC(=O)C12CC3CC(CC(C1)C3)C2)=O)=O | C16H22O4
